US08703941B2
To a 10-mL sealed tube placed 4-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine (120 mg, 0.34 mmol, 1.00 equiv) and CH3NH2—H2O solution (40%, 3 mL) was stirred overnight at 70° C. in an oil bath. After completion of the reaction, the resulting mixture was concentrated under vacuum and the crude product (140 mg) was purified by Prep-HPLC with the following conditions (Waters): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, mobile phase, water with 0.05% NH4HCO3 and CH3CN (25% CH3CN up to 100% in 15 min); Flow rate, 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the corresponding 12-N-[4-(dimethylamino)cyclohexyl]-10-N-methyl-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene-10,12-diamine (50 mg) as a white solid. MS (ES, m/z): 346 [M+H]+; NMR (300 MHz, CD3OD): δ 4.75-4.70 (1H, m), 4.64 (1H, d), 4.05-3.94 (1H, m), 3.00 (3H, d), 2.89-2.87 (4H, m), 2.54-2.38 (2H, m), 2.32 (6H, s), 2.25-2.21 (3H, m), 1.96 (2H, d), 1.50-1.35 (2H, m), 1.29-1.19 (2H, m).

reactant | 4-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine | 0.34 mmol, 120 mg, 1.00 equiv | ClC1=NC=2SC=3CCCC3C2C(=N1)NC1CCC(CC1)N(C)C | C17H23ClN4S
reactant | CH3NH2—H2O | 3 mL | CN.O
product | 12-N-[4-(dimethylamino)cyclohexyl]-10-N-methyl-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene-10,12-diamine | 50 mg | CN(C1CCC(CC1)NC1=NC(=NC=2SC=3CCCC3C12)NC)C | C18H27N5S
